US07960397B2
6-(3-hydroxybenzylamino)-9-(tetrahydrofuran-2-yl)-purine.
A mixture of 10 mmol (2240 mg) of 6-chloro-9-(tetrahydrofuran-2-yl)-purine (prepared from 10 mmol (1546 mg) of 6-chloropurine), 12 mmol (1478 mg) of 3-hydroxybenzylamine, and 5 ml of N-ethyldiisopropylamine was refluxed in n-propanol for 3 hours. After removal of the n-propanol by vacuum evaporation, the resulting material was treated with water and extracted into ethyl acetate. The ethyl acetate phase was evaporated and the residuum subsequently washed with 30 ml of petroleum ether. The solid residue was filtered off and the crude product crystallized from methanol. Yield 85%, white solid. TLC (EtOAc:hexane (1:1 (v:v)): single spot; HPLC: purity >98%. 1H NMR (400 MHZ, DMSO): 2.20sep (1H, J=6.8 Hz); 2.22sep (1H, J=6.8 Hz); 2.44m (2H); 3.91q (1H, J=7.3 Hz); 4.14q (1H, J=7.3 Hz); 4.63bs (2H); 6.26m (1H); 6.59dd (1H, Ja=7.8 Hz, Jb=2.2 Hz); 6.73s (1H); 6.75d (1H, J=7.8 Hz); 7.07t (1H, J=7.8 Hz); 8.20s (1H); 8.26bs (1H); 8.27s (1H); 9.23bs (1H). MS (ES): [M+H]+=312 (100).

reactant | 6-chloro-9-(tetrahydrofuran-2-yl)-purine | 10 mmol, 2240 mg | ClC1=C2N=CN(C2=NC=N1)C1OCCC1 | C9H9ClN4O
reactant | 6-chloropurine | 1546 mg | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | 3-hydroxybenzylamine | 12 mmol, 1478 mg | OC=1C=C(CN)C=CC1 | C7H9NO
reactant | N-ethyldiisopropylamine | 5 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | n-propanol | C(CC)O | C3H8O
product | 6-(3-hydroxybenzylamino)-9-(tetrahydrofuran-2-yl)-purine | Yield 85% | OC=1C=C(CNC2=C3N=CN(C3=NC=N2)C2OCCC2)C=CC1 | C16H17N5O2
